US04863958
A mixture of 2,6-dihydroxyacetophenone (5.35 gm; 35.0 mmoles), potassium carbonate (4.83 gm; 35.0 mmoles), and p-methoxyphenacylbromide (8.05 gm; 35.0 mmoles) in acetone (150 mL) was refluxed for a period of 22 hours. The reaction mixture was cooled, filtered through Celite, and concentrated in vacuo. The residue was dissolved in methylene chloride and washed with 1N sodium hydroxide. The aqueous phase was then acidified with 20% citric acid. The solid was filtered, washed with water, and air-dried to yield 6.5 gm (65%) of 2-(p-methoxybenzoyl)-3-methyl-4-hydroxybenzofuran, mp. 192°-195° C.

reactant | 2,6-dihydroxyacetophenone | 35.0 mmoles, 5.35 gm | CC(=O)C=1C(=CC=CC1O)O | C8H8O3
reactant | potassium carbonate | 35.0 mmoles, 4.83 gm | C([O-])([O-])=O.[K+].[K+]
reactant | p-methoxyphenacylbromide | 35.0 mmoles, 8.05 gm | COC1=CC=C(C(CBr)=O)C=C1 | C9H9BrO2
solvent | acetone | 150 mL | CC(=O)C | C3H6O
product | 2-(p-methoxybenzoyl)-3-methyl-4-hydroxybenzofuran | 6.5 gm, 65% | COC1=CC=C(C(=O)C=2OC3=C(C2C)C(=CC=C3)O)C=C1 | C17H14O4
